US04863959
Preparation of 4-Amino-α-[(tert-butylamino)methyl]-2,5-difluorobenzyl alcohol
A stirred mixture consisting of 3.6 g of 4-acetamido-α-[(tert-butylamino)methyl]-2,5-difluorobenzyl alcohol, 36 mL of EtOH and 36 mL of 10% aqueous NaOH is heated at reflux under N2 for 4 h. The EtOH is evaporated in vacuo and the residue is extracted with 4×60 mL of CH2Cl2. The combined organic extracts are washed with 25 mL of H2O, dried with anhydrous Na2SO4 and evaporated in vacuo to furnish the title compound which is crystallized from CH3CN/hexane, 2.77 g (90% yield), m.p. 115°-116° C.

reactant | 4-acetamido-α-[(tert-butylamino)methyl]-2,5-difluorobenzyl alcohol | 3.6 g | C(C)(=O)NC1=CC(=C(C(CNC(C)(C)C)O)C=C1F)F | C14H20F2N2O2
reactant | NaOH | 36 mL | [OH-].[Na+]
solvent | EtOH | 36 mL | CCO | C2H6O
product | 4-Amino-α-[(tert-butylamino)methyl]-2,5-difluorobenzyl alcohol | 90% yield | NC1=CC(=C(C(CNC(C)(C)C)O)C=C1F)F | C12H18F2N2O
